US03987042
A solution of 10 g of 2-hydroxyethyl-quinuclidine in 80 ml of anhydrous chloroform was cooled to 0° C and treated with anhydrous gaseous hydrogen chloride. 50 ml of thionyl chloride were then added to the solution and the reaction mixture was heated to reflux for 3 hours. The excess thionyl chloride and the chloroform were removed by evaporation under reduced pressure on a water bath at 50° C. The residue was purified by washing with anhydrous ether. The ethereal suspension was filtered and the crystals obtained were dried under reduced pressure at room temperature. 12 g of 2-chloroethyl-quinuclidine, m.p. 202° C, were obtained.

reactant | 2-hydroxyethyl-quinuclidine | 10 g | OCCC1N2CCC(C1)CC2 | C9H17NO
reactant | hydrogen chloride | Cl | ClH
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-chloroethyl-quinuclidine | 12 g | ClCCC1N2CCC(C1)CC2 | C9H16ClN
